US06037297
Ethylene/n-Butyl Vinyl Ether Copolymer
A Parr reactor was loaded with 33.3 mg (0.0673 mmol) of Cu (tetEtBBIM) Cl2 and 30 mL of toluene, followed by the addition of 2.0 mL of 30% MAO (0.010 mol) to give a yellow suspension. A 5 mL quantity (44 mmol) of n-butyl vinyl ether was added with no immediate color change. The Parr reactor was sealed and taken to a hood containing the controllers for the reactor. The reactor was pressurized with 750 psig of ethylene and the mixture was reacted at 60° C. for 20 hours. The reaction was cooled, quenched and the product was isolated. The polymer was soaked in MeOH/HCl to remove catalyst residues. The product was washed and dried to yield 0.420 g of viscous oil. TON (n-butyl vinyl ether) =61; TON (ethylene)=11.5. IR (film, KBr plate, cm-1) 2958(s), 2931(s)(CH2), 2872(s), 1465(s), 1458(s), 1377(m), 1093(s), 1039(m), 979(w), 932(w), 913(w), 859(w), 802(m) 737(m) CH2, 13C NMR (CDCl3 +CrAcAc)3 δ 13.5 (s, CH3), 19.5 (s, CH2) 29.5-30.0 (m, --CH2 --), 31.0(s, CH2) 39.0-41.5 (m, CH2), 68.5(m, --CH--O), 73.5 (m, --OCH2). The presence of the --CH--O resonance at 68.5 ppm indicates an in-chain copolymer. Integration of the NMR indicates a copolymer composition of 84.3% n-butyl vinyl ether, and 15.8% ethylene. The polymer Tg=-97, -63° C. with no Tm is consistent with copolymer formation. GPC (polystyrene calibration with DRI and UV detection at 215 nm), Mn=5390, Mw=23620, Mw/Mn=4.38. The presence of UV activity across the molecular weight-distribution confirms copolymer formation.

reactant | n-butyl vinyl ether | C(=C)OCCCC | C6H12O
reactant | ethylene | C=C | C2H4
reactant | KBr | [K+].[Br-]
product | Ethylene n-Butyl Vinyl Ether | C=C.C(=C)OCCCC | InChI=1S/C6H12O.C2H4/c1-3-5-6-7-4-2;1-2/h4H,2-3,5-6H2,1H3;1-2H2
